data/oMe_Silver.jsonl
{"reaction_id": "NR-129_1-c1ccc(F)cc1_2-C=C","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["c1ccc(F)cc1Br","C=C[Mg]Br"],"products_smiles": ["c1ccc(F)cc1C=C"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](c1ccc(F)cc1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to c1ccc(F)cc1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](c1ccc(F)cc1)C=C","rationale": "The nucleophilic C=C–MgBr transfers C=C to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1ccc(F)cc1C=C","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between c1ccc(F)cc1 and C=C, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-105_1-C(F)(F)F_2-N(CC)CC_3-[N+](=O)[O-]_4-C#CC2CCCCC2_5-C(C)(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(C#CC2CCCCC2)c([N+](=O)[O-])c(N(CC)CC)c(C(F)(F)F)c1)\\C(=O)OC(C)(C)C"],"products_smiles": ["c1c(C(=O)OC(C)(C)C)[nH]c2c1c(C#CC2CCCCC2)c([N+](=O)[O-])c(N(CC)CC)c2C(F)(F)F"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(C#CC2CCCCC2)c([N+](=O)[O-])c(N(CC)CC)c(C(F)(F)F)c1)\\C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2C#CC2CCCCC2)[N+](=O)[O-])N(CC)CC)C(F)(F)F","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)(C)C)[nH]c2c1c(C#CC2CCCCC2)c([N+](=O)[O-])c(N(CC)CC)c2C(F)(F)F","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
{"reaction_id": "NR-108_1-c1ccccc1_2-c1ccccc1_3-C(C)(C)C","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(C(C)(C)C)CCCC(c1ccccc1)c1ccccc1"],"products_smiles": ["N(C(C)(C)C)CCCC(c1ccccc1)(c1ccccc1)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](C(C)(C)C)CCCC(c1ccccc1)c1ccccc1","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(C(C)(C)C)CCC[C](c1ccccc1)c1ccccc1","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(C(C)(C)C)CCCC(c1ccccc1)(c1ccccc1)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
